US05650534
0.6 g of 4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoic acid and 0.2 g of (4-hydroxyphenoxy)ethanol, 0.04 g of 4-dimethylaminopyridine, 0.4 g of N,N'-dicyclodicyclohexyldicarbodimide and 50 ml of dichloromethane are reacted in an analogous manner to Example 1 to give 0.4 g of (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoyloxy]phenoxy)ethanol.

reactant | 4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoic acid | NC1=C(C=C(C(=C1)O[C@@H](C)CCCCCC)[N+](=O)[O-])C1=CC=C(C(=O)O)C=C1 | C21H26N2O5
reactant | (4-hydroxyphenoxy)ethanol | 0.2 g | OC1=CC=C(OC(C)O)C=C1 | C8H10O3
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoyloxy]phenoxy)ethanol | 0.4 g | NC1=C(C=C(C(=C1)O[C@@H](C)CCCCCC)[N+](=O)[O-])C1=CC=C(C(=O)OC2=CC=C(OC(C)O)C=C2)C=C1 | C29H34N2O7
